US04968710
Under a nitrogen atmosphere, a mixture of 3.79 g (0.012 mole) of 6-(3,5-di-t-butyl-4-hydroxyphenoxy)hexanenitrile, 2.45 g (0.018 mole) of triethylammonium chloride, 2.31 g (0.036 mole) of sodium azide and 150 ml of N-methylpyrrolidinone was heated at about 150° C. for about 72 hours. The reaction mixture was cooled and poured into water. The aqueous mixture was acidified to pH 1 with 10% hydrochloric acid and then extracted six times with 100 ml portions of diethyl ether. The diethyl ether extracts were combined, dried over magnesium sulfate and evaporated to provide a yellow oil. This oil was purified by silica gel chromatography eluting with 2:1 hexane:acetone containing 3 drops of acetic acid per 2000 ml of solvent, followed by recrystallization from a mixture of ethyl acetate and hexane to provide 2.2 g of 5-[5-(3,5-di-t-butyl-4-hydroxyphenoxy)pentyl]tetrazole as an off-white crystalline solid, m.p. 140°-141° C. Analysis: Calculated for C20H32N4O2 : %C, 66.6; %H, 8.95; %N, 15.5; Found: %C, 66.5; %H, 8.9; %N, 15.6.

reactant | 6-(3,5-di-t-butyl-4-hydroxyphenoxy)hexanenitrile | 0.012 mole, 3.79 g | C(C)(C)(C)C=1C=C(OCCCCCC#N)C=C(C1O)C(C)(C)C | C20H31NO2
reactant | triethylammonium chloride | 0.018 mole, 2.45 g | [Cl-].C(C)[NH+](CC)CC
reactant | sodium azide | 0.036 mole, 2.31 g | [N-]=[N+]=[N-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | N-methylpyrrolidinone | 150 ml | CN1C(CCC1)=O | C5H9NO
product | 5-[5-(3,5-di-t-butyl-4-hydroxyphenoxy)pentyl]tetrazole | 2.2 g | C(C)(C)(C)C=1C=C(OCCCCCC2=NN=NN2)C=C(C1O)C(C)(C)C | C20H32N4O2
